US09334278B2
To a solution of N-tert-butyl-2-(p-tolylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (80 mg, 176 μmol) in dichloromethane (3 mL) was added trifluoroacetic acid (402 mg, 272 μL, 3.53 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained diluted with dichloromethane (3 mL), methanol (1.5 mL) and ammonium hydroxide (0.4 mL) and stirred at room temperature for 1 h. The mixture was concentrated and triturated with water. The solid was collected by filtration and washed with water and ether. Purification by chromatography (silica, 20-40% of a 10:89.5:0.5 methanol:dichloromethane:ammonium hydroxide solution in dichloromethane) gave N-tert-butyl-2-(p-tolylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (17 mg, 52.6 μmol, 30%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.26 (s, 1H), 9.34 (s, 1H), 7.97 (s, 1H), 7.96 (d, J=3.3, 1 H), 7.76 (s, 1H), 7.57 (t, J=8.5, 2 H), 7.09 (d, J=8.1, 2 H), 2.26 (s, 3H), 1.44 (s, 9H); MS (EI/CI) m/z: 324.1 [M+H].

reactant | N-tert-butyl-2-(p-tolylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 176 μmol, 80 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=CC=C(C=C2)C)COCC[Si](C)(C)C | C24H35N5O2Si
reactant | trifluoroacetic acid | 3.53 mmol, 272 μL, 402 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | methanol | 1.5 mL | CO | CH4O
solvent | ammonium hydroxide | 0.4 mL | [OH-].[NH4+]
product | N-tert-butyl-2-(p-tolylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 52.6 μmol, 17 mg, 30% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=CC=C(C=C2)C | C18H21N5O
